US07759389B2
7-Benzenesulfonyl-chroman-4-carbonitrile (300 mg, 1 mmol) was dissolved in 10 mL THF, and 237 ul (2.5 mmol) of BH3.DMF was added. The reaction mixture was stirred for one hour at room temperature, and then heated to 80° C. for twenty minutes. The reaction mixture was then cooled, quenched by addition of methanol, and diluted with water. The aqueous mixture was extrated with EtOAc. The organic phase was dried over MgSO4, and solvent was removed under reduced pressure to yield 95 mg (31%) of C-(7-benzenesulfonyl-chroman-4-yl)-methylamine. MS: 304 (M+H)+. This product was dissolved in 2N HCl/EtOH and recrystallized by addition of Et2O to afford 52 mg of the corresponding hydrochloride salt. Mp: 246.8-249.8° C.

reactant | 7-Benzenesulfonyl-chroman-4-carbonitrile | 1 mmol, 300 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)C#N | C16H13NO3S
reactant | DMF | CN(C)C=O | C3H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | C-(7-benzenesulfonyl-chroman-4-yl)-methylamine | 95 mg, 31% | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)CN | C16H17NO3S
